US04299834
8-(2-Ethoxy-4-methylmercapto-phenyl)-purine-hydrochloride
Three grams of 2-ethoxy-4-methylmercapto-benzoic acid and 2.2 g of 4,5-diamino-pyrimidine hydrochloride were refluxed in 30 ml of phosphorus oxychloride for three hours. The reaction mixture was poured on ice and then made ammoniacal, and the supernatant solution was decanted from the semicrystalline residue. After dissolution in methanol and filtering off from the insoluble products, the residue was purified over a silicagel column (eluate: methylene chloride/ethanol in volume ratio of from 100:0 to 98:2). The hydrochloride was precipitated from acetone with ethereal hydrochloric acid.

reactant | 2-ethoxy-4-methylmercapto-benzoic acid | Three grams | C(C)OC1=C(C(=O)O)C=CC(=C1)SC | C10H12O3S
reactant | 4,5-diamino-pyrimidine hydrochloride | 2.2 g | Cl.NC1=NC=NC=C1N
solvent | phosphorus oxychloride | 30 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 8-(2-Ethoxy-4-methylmercapto-phenyl)-purine-hydrochloride | Cl.C(C)OC1=C(C=CC(=C1)SC)C1=NC2=NC=NC=C2N1 | InChI=1S/C14H14N4OS.ClH/c1-3-19-12-6-9(20-2)4-5-10(12)13-17-11-7-15-8-16-14(11)18-13;/h4-8H,3H2,1-2H3,(H,15,16,17,18);1H
